US04207320
10-Methyl-3-(1-piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide;
3-(1-Piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide; dec. at 280° C.-290° C. from N-methyl-2-pyrrolidinone/ethyl acetate.

reactant | 3-(1-Piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].N1(CCCCC1)C1=CC=2C=CC3=[N+](C2C=C1)C=C1N3C=3C=CC=CC3C=C1
reactant | N-methyl-2-pyrrolidinone ethyl acetate | CN1C(CCC1)=O.C(C)(=O)OCC
product | 10-Methyl-3-(1-piperidinyl)imidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].CC1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)N1CCCCC1)C3 | InChI=1S/C25H24N3.HI/c1-18-5-10-24-19(15-18)6-8-22-17-27-23-11-9-21(26-13-3-2-4-14-26)16-20(23)7-12-25(27)28(22)24;/h5-12,15-17H,2-4,13-14H2,1H3;1H/q+1;/p-1
